US06451814B1
1-[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-4-carboxylic Acid Ethyl Ester
Ethyl 1-({4-[4-(2-{[(2S)-3-(4-{[tert-butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethyl)anilino]-1-piperidinyl}carbonyl)-4-piperidinecarboxylate (0.17 g, 0.21 mmol) was reacted according to Procedure H (eluant: 10:1 going to 5:1 chloroform-methanol containing 2% triethylamine) to give the title compound (0.093 g, 0.164 mmol).

reactant | Ethyl 1-({4-[4-(2-{[(2S)-3-(4-{[tert-butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethyl)anilino]-1-piperidinyl}carbonyl)-4-piperidinecarboxylate | 0.21 mmol, 0.17 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)N3CCC(CC3)C(=O)OCC)C=C2)O)C=C1 | C47H62N4O6Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 1-[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-4-carboxylic Acid Ethyl Ester | 0.164 mmol, 0.093 g | C(C)OC(=O)C1CCN(CC1)C(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C31H44N4O6
